US06562989B2
N,N-dibutyl-4-cyanoaniline (Table 4, Entry 7)
According to the general procedure B, 4-chlorobenzonitrile (70 mg, 0.51 mmol) reacted with N,N-di-n-butylamine (77 mg, 0.60 mmol) using 1 mol % Pd(dba)2, 2 mol % of ligand, and K3PO4 (254 mg, 1.20 mmol) at 100° C. in DME solvent to give the title compound (110 mg, 94%) as a colorless oil: 1H-NMR (300 MHz, CDCl3): δ 7.43 (d, 2H, J=8.7 Hz), 6.58 (d, 2H, J=9.0 Hz), 3.28 (t, 4H, J=7.5 and 8.1 Hz), 1.58 (m, 4H), 1.36 (m, 4H), 0.97 (t, 6H, J=7.2 Hz). 13C{1H}-NMR (100 MHz, CDCl3): δ 150.59, 133.52, 120.88, 111.01, 96.20, 50.64, 29.08, 20.20, 13.89. GC/MS(EI): m/z 230 (M+). Anal. Calcd for C15H22N2: C, 78.21; H, 9.63; N, 12.16. Found: C, 78.22; H, 9.75; N, 12.29.

reactant | 4-chlorobenzonitrile | 0.51 mmol, 70 mg | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | N,N-di-n-butylamine | 0.60 mmol, 77 mg | C(CCC)NCCCC | C8H19N
reactant | K3PO4 | 1.20 mmol, 254 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DME | COCCOC | C4H10O2
catalyst | Pd(dba)2 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N,N-dibutyl-4-cyanoaniline | 110 mg, 94% | C(CCC)N(C1=CC=C(C=C1)C#N)CCCC | C15H22N2
